US05821387
A solution of 6-methylchrysene (4,85 g, 20 mmol), N-bromosuccinimide (3.60 g, 20.2 mmol), and benzoyl peroxide (0.242 g, 1.0 mmol) in chlorobenzene (100 mL) was heated under nitrogen at 80° C. After 1 hour, NMR analysis indicated that the starting material had been consumed. The solution was cooled to 50° C. at which point a solid precipitate had formed. The mixture was diluted with methanol (100 mL) and further cooled to ambient temperature. The mixture was filtered and the solid washed with methanol to give 4.87 g (76% yield) of 6-bromomethylchrysene. 1H NMR (CDCl3) 5.17 (s, 2H), 7.25 (m, 4 H), 8.0 (t, J=8.7 Hz, 2 H), 8.31 (m, 1 H), 8.67 (d, J=9.0 Hz), 8.75 (d, J=9.0 Hz, 1 H), 8.81 (m, 2 H).

reactant | 6-methylchrysene | 20 mmol, 4,85 g | CC=1C=C2C=3C=CC=CC3C=CC2=C2C=CC=CC12 | C19H14
reactant | N-bromosuccinimide | 20.2 mmol, 3.60 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chlorobenzene | 100 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | methanol | 100 mL | CO | CH4O
catalyst | benzoyl peroxide | 1.0 mmol, 0.242 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 6-bromomethylchrysene | 4.87 g, 76% yield | BrCC=1C=C2C=3C=CC=CC3C=CC2=C2C=CC=CC12 | C19H13Br
